US04547506
Sodium hydride (1.32 g) was disolved in DMSO (25 ml) at 70°-75° C. under nitrogen. The solution was cooled and 2-(3-aminopropylamino)pyridine (7.5 g) added at room temperature. 2-Chlorobenzyl chloride (8.86 g) in DMSO (15 ml) was added dropwise maintaining the temperature at 20°-25° C. After standing overnight water (200 ml) was added and the mixture extracted with ether. The ether extracts were washed with 2N hydrochloric acid and after partitioning into ether and chloroform at pH 3.5 and 14, an oil was obtained which was further purified by HPLC (silica gel, dichloromethane then 2% ammoniacal methanol/dichloromethane) to give 2-[N-(3-aminopropyl)-N-(2-chlorobenzyl) amino]pyridine (3.44 g) as an oil.

reactant | Sodium hydride | 1.32 g | [H-].[Na+]
reactant | 2-(3-aminopropylamino)pyridine | 7.5 g | NCCCNC1=NC=CC=C1 | C8H13N3
reactant | 2-Chlorobenzyl chloride | 8.86 g | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
reactant | water | 200 ml | O | H2O
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | 2-[N-(3-aminopropyl)-N-(2-chlorobenzyl) amino]pyridine | 3.44 g | NCCCN(CC1=C(C=CC=C1)Cl)C1=NC=CC=C1 | C15H18ClN3
